US04480112
4.5 parts of diketene were added dropwise to a stirred suspension of 14.7 parts α-L-aspartyl-L-phenylalanine methyl ester in 400 parts by volume of tetrahydrofuran and stirred for 20 hours at ambient temperatures. An additional 4.2 parts of diketene was added. After 18 hours, the solvent was removed under vacuum and the residue was purified by chromotography on silica gel to give N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester, mp 118.5°-121° C. which eluted in a 10:90:0.1 ethanol:methylene chloride:acetic acid mixture.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(O)=O)=O)CC1=CC=CC=C1)=O | C14H18N2O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-acetoacetyl-α-L-aspartyl-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC(CC(=O)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C18H22N2O7
